US20010014691A1
Methyl(4-(3-pyridyloxy)butyl)amine
The 4-chloro-1-(3-pyridyloxy)butane (2.00 g, 10.8 mmol) was dissolved in methanol (25 mL) and added to a 40 wt % aqueous solution of methylamine (50 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oil bath temperature) for 4 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (10 mL) was added to the residue, and the solution (pH 6) was extracted with ether (3×25 mL) to remove impurities. The aqueous layer was basified to pH 10 with 10% NaOH solution, and the mixture was extracted with chloroform (4×25 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 1.47 g (75.5%) of an oil.

reactant | 4-chloro-1-(3-pyridyloxy)butane | 10.8 mmol, 2.00 g | ClCCCCOC=1C=NC=CC1 | C9H12ClNO
reactant | methylamine | 50 mL | CN | CH5N
solvent | methanol | 25 mL | CO | CH4O
product | Methyl(4-(3-pyridyloxy)butyl)amine | 1.47 g, 75.5% | CNCCCCOC=1C=NC=CC1 | C10H16N2O
